US07897631B2
tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate (0.112 g, 0.403 mmol) was reacted with N-(2-azidoethyl)-5-(dimethylamino)naphthalene-1-sulfonamide (0.140 g, 0.403 mmol) following the general click procedure to give tert-butyl 2-amino-4-(5-(1-(2-(5-(dimethylamino)naphthalene-1-sulfonamido)ethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate 1H NMR (300 MHz, CDCl3) δ 8.48 (d, 1H), δ 8.24 (d, 1H), δ 8.17 (d, 1H), δ 7.44 (m, 3H), δ 7.07 (d, 1H), δ 6.44 (s, 1H), δ 6.09 (bs, 2H), δ 4.32 (s, 2H), δ 3.36 (s, 2H), δ 2.52 (s, 2H), δ 2.22 (s, 2H), δ 1.43 (m, 13H), δ 1.22 (s, 2H) ppm; 13C NMR (75 MHz, CDCl3) δ 176.9, 152.1, 149.6, 148.0, 138.6, 135.1, 130.7, 130.1, 129.7, 129.4, 128.5, 123.3, 122.4, 119.1, 115.5, 84.9, 67.5, 50.3, 50.2, 45.6, 42.9, 37.9, 29.1, 28.9, 28.2, 28.0, 25.5 ppm; HRMS (ESI) calcd for C29H40N8O4S (M+) 596.2893. found 596.2881, which was subsequently deprotected to give N-(2-(4-(5-(2-amino-1H-imidazol-4-yl)pentyl)-1H-1,2,3-triazol-1-yl)ethyl)-5-(dimethylamino)naphthalene-1-sulfonamide hydrochloride (0.139 g, 65% yield). 1H NMR (400 MHz, CD3OD) δ 8.70 (t, 2H), δ 8.31 (s, 1H), δ 8.08 (s, 2H), δ 7.82 (s, 2H), δ 6.43 (s, 1H), δ 4.55 (s, 2H), δ 3.32 (s, 8H), 2.63 (s, 2H), δ 2.48 (s, 2H), δ 1.66 (s, 4H), δ 1.40 (s, 2H) ppm; 13C NMR (100 MHz, CD3OD) δ 159.9, 147.3, 140.7, 136.8, 129.9, 129.3, 127.8, 127.7, 126.5, 119.3, 108.6, 108.4, 76.7, 67.3, 51.5, 42.3, 37.4, 36.5, 28.3, 27.9, 27.6, 24.1, 24.0, 23.7 ppm; HRMS (ESI) calcd for C24H32N8O2S (M+) 496.2369. found 496.2359.

reactant | tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate | 0.403 mmol, 0.112 g | NC=1N(C=C(N1)CCCCCC#C)C(=O)OC(C)(C)C | C15H23N3O2
reactant | N-(2-azidoethyl)-5-(dimethylamino)naphthalene-1-sulfonamide | 0.403 mmol, 0.140 g | N(=[N+]=[N-])CCNS(=O)(=O)C1=CC=CC2=C(C=CC=C12)N(C)C | C14H17N5O2S
product | tert-butyl 2-amino-4-(5-(1-(2-(5-(dimethylamino)naphthalene-1-sulfonamido)ethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate | NC=1N(C=C(N1)CCCCCC=1N=NN(C1)CCNS(=O)(=O)C1=CC=CC2=C(C=CC=C12)N(C)C)C(=O)OC(C)(C)C | C29H40N8O4S
